* NexRx Digital Twin - QSD Model Library
* Quadrature Sampling Detector subcircuit definitions
*
* Reference: RX-ARCHITECTURE.md Section "QSD Architecture"
* NOTE: Requires components.lib to be included by top-level netlist
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* 4-PHASE QUADRATURE SAMPLING DETECTOR (QSD0, QSD1)
*
* Operation:
*   RF input is switched to one of four sampling capacitors based on
*   LO phase. Each cap integrates RF during its "on" window.
*   I output = (phase0 - phase180) / 2
*   Q output = (phase90 - phase270) / 2
*
* Inputs:
*   RF_IN   - RF signal input (~50 ohm source impedance)
*   GND     - Ground reference
*   PH0-PH3 - Phase control signals (3.3V = on, 0V = off)
*            PH0=0deg, PH1=90deg, PH2=180deg, PH3=270deg
*
* Outputs:
*   I_OUT, Q_OUT - Baseband I/Q outputs (single-ended, 1.65V DC bias)
*
* Parameters:
*   CSAMP - Sampling capacitor value (default 470pF)
*           Sets baseband bandwidth: f_bb ≈ 1/(2π×R×C)
*           With 22Ω source and 470pF: Xc=24Ω at 14MHz (good match)
*           Baseband filtering done downstream before ADC
*======================================================================

.SUBCKT QSD_4PHASE RF_IN GND I_OUT Q_OUT PH0 PH1 PH2 PH3 CSAMP=470p

*----------------------------------------------------------------------
* DC Bias - 1.65V reference for single-ended operation
* In real hardware this comes from a precision voltage reference
*----------------------------------------------------------------------
V_BIAS BIAS_REF GND 1.65

*----------------------------------------------------------------------
* Input coupling - DC block to prevent bias shift
*----------------------------------------------------------------------
C_COUPLE RF_IN RF_AC 100n
R_BIAS RF_AC BIAS_REF 10k

*----------------------------------------------------------------------
* Four sampling switches - one per phase
* Each switch connects RF to its sampling capacitor when active
*----------------------------------------------------------------------

* Phase 0 (0 degrees) - positive I
X_SW0 RF_AC SAMP0 PH0 GND SW_TS3A4751
C_SAMP0 SAMP0 GND {CSAMP}

* Phase 1 (90 degrees) - positive Q
X_SW1 RF_AC SAMP1 PH1 GND SW_TS3A4751
C_SAMP1 SAMP1 GND {CSAMP}

* Phase 2 (180 degrees) - negative I
X_SW2 RF_AC SAMP2 PH2 GND SW_TS3A4751
C_SAMP2 SAMP2 GND {CSAMP}

* Phase 3 (270 degrees) - negative Q
X_SW3 RF_AC SAMP3 PH3 GND SW_TS3A4751
C_SAMP3 SAMP3 GND {CSAMP}

*----------------------------------------------------------------------
* Differential to single-ended conversion
* Using behavioral sources for clean differential operation
*
* I = (SAMP0 - SAMP2)/2 + 1.65V (centered around bias)
* Q = (SAMP1 - SAMP3)/2 + 1.65V
*----------------------------------------------------------------------

* I channel output - differential with bias
B_I_OUT I_PRE GND V='(V(SAMP0) - V(SAMP2))/2 + 1.65'
R_I_OUT I_PRE I_OUT 100
C_I_FILT I_OUT GND 10n

* Q channel output - differential with bias
B_Q_OUT Q_PRE GND V='(V(SAMP1) - V(SAMP3))/2 + 1.65'
R_Q_OUT Q_PRE Q_OUT 100
C_Q_FILT Q_OUT GND 10n

.ENDS QSD_4PHASE

*======================================================================
* 6-PHASE SEXTATURE SAMPLING DETECTOR (QSD2)
*
* Six-phase sampling provides additional image rejection capability
* when combined with QSD0/1 outputs in DSP.
*
* Phase arrangement:
*   PH0=0deg, PH1=60deg, PH2=120deg, PH3=180deg, PH4=240deg, PH5=300deg
*
* I output = weighted sum of even phases (0, 120, 240)
* Q output = weighted sum of odd phases (60, 180, 300)
*======================================================================

.SUBCKT QSD_6PHASE RF_IN GND I_OUT Q_OUT PH0 PH1 PH2 PH3 PH4 PH5 CSAMP=470p

*----------------------------------------------------------------------
* DC Bias
*----------------------------------------------------------------------
V_BIAS BIAS_REF GND 1.65

*----------------------------------------------------------------------
* Input coupling
*----------------------------------------------------------------------
C_COUPLE RF_IN RF_AC 100n
R_BIAS RF_AC BIAS_REF 10k

*----------------------------------------------------------------------
* Six sampling switches
*----------------------------------------------------------------------

* Phase 0 (0 degrees)
X_SW0 RF_AC SAMP0 PH0 GND SW_TS3A4751
C_SAMP0 SAMP0 GND {CSAMP}

* Phase 1 (60 degrees)
X_SW1 RF_AC SAMP1 PH1 GND SW_TS3A4751
C_SAMP1 SAMP1 GND {CSAMP}

* Phase 2 (120 degrees)
X_SW2 RF_AC SAMP2 PH2 GND SW_TS3A4751
C_SAMP2 SAMP2 GND {CSAMP}

* Phase 3 (180 degrees)
X_SW3 RF_AC SAMP3 PH3 GND SW_TS3A4751
C_SAMP3 SAMP3 GND {CSAMP}

* Phase 4 (240 degrees)
X_SW4 RF_AC SAMP4 PH4 GND SW_TS3A4751
C_SAMP4 SAMP4 GND {CSAMP}

* Phase 5 (300 degrees)
X_SW5 RF_AC SAMP5 PH5 GND SW_TS3A4751
C_SAMP5 SAMP5 GND {CSAMP}

*----------------------------------------------------------------------
* 6-phase to I/Q conversion using behavioral sources
*
* For 6-phase sextature sampling:
*   I = SAMP0 - SAMP3 (0 vs 180 degrees)
*   Q_raw = 0.866 * ((SAMP1 - SAMP4) + (SAMP2 - SAMP5))
*
* Each output centered around 1.65V bias
*----------------------------------------------------------------------

* I channel: difference of 0 and 180 degree samples
B_I_OUT I_PRE GND V='(V(SAMP0) - V(SAMP3))/2 + 1.65'
R_I_OUT I_PRE I_OUT 100
C_I_FILT I_OUT GND 10n

* Q channel: weighted sum of 60/240 and 120/300 differences
* cos(30°) = 0.866, scaling for proper quadrature amplitude
B_Q_OUT Q_PRE GND V='0.433*(V(SAMP1)-V(SAMP4)+V(SAMP2)-V(SAMP5)) + 1.65'
R_Q_OUT Q_PRE Q_OUT 100
C_Q_FILT Q_OUT GND 10n

.ENDS QSD_6PHASE

*======================================================================
* SIMPLIFIED QSD FOR FASTER SIMULATION
*
* Behavioral model that computes I/Q directly from RF * LO
* Much faster than switch-level simulation
* Use for system-level testing, not for detailed switch analysis
*======================================================================

.SUBCKT QSD_BEHAVIORAL RF_IN GND I_OUT Q_OUT LO_I LO_Q

* DC Bias
V_BIAS BIAS_REF GND 1.65

* I = RF * LO_I (mixer action)
* LO_I swings 0 to 3.3V, center at 1.65V
* Normalize LO to +/-1 range: (LO - 1.65) / 1.65
B_I_MIX I_MIX GND V='V(RF_IN) * (V(LO_I) - 1.65) / 1.65'

* Q = RF * LO_Q
B_Q_MIX Q_MIX GND V='V(RF_IN) * (V(LO_Q) - 1.65) / 1.65'

* Low-pass filter (represents integration by sampling caps)
* Corner frequency ~100kHz for 96kHz sample rate
R_I_LPF I_MIX I_FILT 1k
C_I_LPF I_FILT GND 1.6u

R_Q_LPF Q_MIX Q_FILT 1k
C_Q_LPF Q_FILT GND 1.6u

* Add DC bias to output
E_I_OUT I_OUT GND VOL='V(I_FILT) + 1.65'
E_Q_OUT Q_OUT GND VOL='V(Q_FILT) + 1.65'

.ENDS QSD_BEHAVIORAL

